US07365081B2
Preparation of N-(2-methyl-6-quinolyl)-[1-(4-chlorobenzyl)indole-3-yl]glyoxylamide (D-69429)
At 0° C. and under nitrogen, a solution of 10.2 g (42.2 mmol) of 1-(4-chlorobenzyl)indole in 50 ml of ether is added dropwise to a solution of 5.50 ml of oxalyl chloride in 50 ml of ether. The mixture is heated at reflux for 2 hours and the solvent is then evaporated. 100 ml of tetrahydrofuran were then added to the residue and the solution was cooled to −4° C. and treated dropwise with a solution of 15.66 g (99.0 mmol) of 6-amino-2-methylquinoline in 350 ml of THF. The mixture is heated at reflux for 4 hours and allowed to stand at room temperature overnight. The 6-amino-2-methylquinoline hydrochloride is filtered off with suction, the precipitate is washed with THF, the filtrate is concentrated under reduced pressure and the residue is recrystallized from methyl ethyl ketone/methylene chloride.

reactant | 1-(4-chlorobenzyl)indole | 42.2 mmol, 10.2 g | ClC1=CC=C(CN2C=CC3=CC=CC=C23)C=C1 | C15H12ClN
reactant | oxalyl chloride | 5.50 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-amino-2-methylquinoline | 99.0 mmol, 15.66 g | NC=1C=C2C=CC(=NC2=CC1)C | C10H10N2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | THF | 350 ml | C1CCOC1 | C4H8O
product | N-(2-methyl-6-quinolyl)-[1-(4-chlorobenzyl)indole-3-yl]glyoxylamide | CC1=NC2=CC=C(C=C2C=C1)NC(C(=O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)Cl)=O | C27H20ClN3O2
